US07687491B2
(16d) 1-[(5-{5-[3-Chloro-4-(3-fluorophenoxy)phenyl]-1,2,4-oxadiazol-3-yl}-4-ethyl-2-thienyl)methyl]azetidine-3-carboxylic acid
The title compound (0.14 g) was synthesized in a yield of 92% as a white crystalline solid by conducting the reaction similar to that mentioned in Example 3 (3e) using methyl 1-[(5-{5-[3-chloro-4-(3-fluorophenoxy)phenyl]-1,2,4-oxadiazol-3-yl}-4-ethyl-2-thienyl)methyl]azetidine-3-carboxylate (0.16 g, 0.30 mmol) that was obtained in Example 16 (16c), a 1 N aqueous solution of sodium hydroxide (0.89 mL, 0.89 mmol), and acetic acid (51 μL, 0.89 mmol).

reactant | methyl 1-[(5-{5-[3-chloro-4-(3-fluorophenoxy)phenyl]-1,2,4-oxadiazol-3-yl}-4-ethyl-2-thienyl)methyl]azetidine-3-carboxylate | 0.30 mmol, 0.16 g | ClC=1C=C(C=CC1OC1=CC(=CC=C1)F)C1=NC(=NO1)C1=C(C=C(S1)CN1CC(C1)C(=O)OC)CC | C26H23ClFN3O4S
reactant | sodium hydroxide | 0.89 mmol, 0.89 mL | [OH-].[Na+]
reactant | acetic acid | 0.89 mmol, 51 μL | C(C)(=O)O | C2H4O2
product | 1-[(5-{5-[3-Chloro-4-(3-fluorophenoxy)phenyl]-1,2,4-oxadiazol-3-yl}-4-ethyl-2-thienyl)methyl]azetidine-3-carboxylic acid | 0.14 g, yield of 92% | ClC=1C=C(C=CC1OC1=CC(=CC=C1)F)C1=NC(=NO1)C1=C(C=C(S1)CN1CC(C1)C(=O)O)CC | C25H21ClFN3O4S
